* C:\Users\Acer ASPIRE\OneDrive\Documentos\AALAboratorio\Laboratorio_Analogica\TP8\idea2_tp8.asc
V1 N001 0 9V
R§LDR1 N001 VLDR1 100K
R1 VLDR1 0 20k
R2 VLDR2 0 20K
R§LDR2 N001 VLDR2 1k
R§LDR3 N001 VLDR3 100k
R3 VLDR3 0 20K
R4 VLDR4 0 20K
R§LDR4 N001 VLDR4 150k
R5 NC_01 NC_02 330
D1 VLDR4 N002 D
R6 NC_03 NC_04 330
D2 VLDR3 N002 D
R7 NC_05 NC_06 330
D3 VLDR2 N002 D
R10 NC_07 NC_08 330
D4 VLDR1 N002 D
R8 N002 0 10k
XU1 VLDR4 N002 N001 0 LED-OESTE LT1413
XU2 VLDR3 N002 N001 0 LED-ESTE LT1413
XU3 VLDR2 N002 N001 0 LED-SUR LT1413
XU4 VLDR1 N002 N001 0 LED-NORTE LT1413
R9 N003 LED-OESTE 330
R11 N004 LED-ESTE 330
R12 N005 LED-SUR 330
R13 N006 LED-NORTE 330
D5 N003 0 D
D6 N004 0 D
D7 N005 0 D
D8 N006 0 D
.model D D
.lib C:\Users\Acer ASPIRE\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 1
* norte
* sur
* este
* oeste
.lib LTC.lib
.backanno
.end
