* C:\Users\Acer ASPIRE\OneDrive\Documentos\AALAboratorio\Laboratorio_Analogica\TP8\idea2_tp8.asc
V1 N001 0 9V
R§LDR1 N001 VLDR1 100K
R1 VLDR1 0 20k
R2 VLDR2 0 20K
R§LDR2 N001 VLDR2 1k
R§LDR3 N001 VLDR3 100k
R3 VLDR3 0 20K
R4 VLDR4 0 20K
R§LDR4 N001 VLDR4 150k
R5 P001 VLDR4 330
D1 P001 V-comparar D
R6 P002 VLDR3 330
D2 P002 V-comparar D
R7 P003 VLDR2 330
D3 P003 V-comparar D
R10 P004 VLDR1 330
D4 P004 V-comparar D
R8 V-comparar 0 10k
XU1 VLDR4 V-comparar N001 0 LED-OESTE LT1413
XU2 VLDR3 V-comparar N001 0 LED-ESTE LT1413
XU3 VLDR2 V-comparar N001 0 LED-SUR LT1413
XU4 VLDR1 V-comparar N001 0 LED-NORTE LT1413
R9 N002 LED-OESTE 330
R11 N003 LED-ESTE 330
R12 N004 LED-SUR 330
R13 N005 LED-NORTE 330
D5 N002 0 D
D6 N003 0 D
D7 N004 0 D
D8 N005 0 D
.model D D
.lib C:\Users\Acer ASPIRE\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 1
* norte
* sur
* este
* oeste
.lib LTC.lib
.backanno
.end
